US07968581B2
Step 3: 4-[2,5-Dioxo-4-[(2-propenyloxy)methyl]imidazolidin-4-yl]benzonitrile
To a solution of 500 mg of 4-[2-(2-propenyloxy)acetyl]benzonitrile (in EtOH (5 mL) and water (5 mL) is added 324 mg potassium cyanide and 1.67 g of ammonium carbonate. The mixture is refluxed overnight at 55° C. The mixture is extracted with ethyl acetate, dried over magnesium sulfate and concentrated under vacuum to give the desired compound.

reactant | 4-[2-(2-propenyloxy)acetyl]benzonitrile | 500 mg | C(C=C)OCC(=O)C1=CC=C(C#N)C=C1 | C12H11NO2
reactant | water | 5 mL | O | H2O
reactant | potassium cyanide | 324 mg | [C-]#N.[K+]
reactant | ammonium carbonate | 1.67 g | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | EtOH | 5 mL | CCO | C2H6O
product | 4-[2,5-Dioxo-4-[(2-propenyloxy)methyl]imidazolidin-4-yl]benzonitrile | O=C1NC(C(N1)(COCC=C)C1=CC=C(C#N)C=C1)=O | C14H13N3O3
